US04302398
10 g of methyl rac-4,4-ethylenedioxy-1,2,3,4-tetrahydro-2-hydroxy-5,8-dimethoxynaphthalene-2-carboxylate were dissolved in 30 ml of dichloromethane and the solution was cooled to 0° C. To the solution were added 4 ml of ethanedithiol followed by 4 ml of boron trifluoride etherate. The mixture was stirred at 0° C. for 15 minutes and then poured into 200 ml of diethyl ether. The organic layer was washed with three 50 ml portions of 5% sodium hydroxide solution and evaporated to give a yellow oil which was taken up in 200 ml of methanol. 100 ml of 5% sodium hydroxide solution were added and the resulting solution was stirred at room temperature for 1.5 hours. Most of the methanol was then evaporated, the residue was diluted with 250 ml of water and washed with three 100 ml portions of ether. The aqueous layer was acidified with hydrochloric acid and the precipitated oil was left to solidify. The product was collected by filtration, washed free from acid using water and dried. The crude acid was purified by suspension in 150 ml of ethyl acetate and heating under reflux for 30 minutes. The mixture was cooled and the product was collected by filtration after 24 hours. There were obtained 7.0 g (66.5%) of 1',2',3',4'-tetrahydro-2'-hydroxy-5',8'-dimethoxyspiro[1,3-dithiolane-2,4'-naphthalene]-2'-carboxylic acid in the form of colourless crystals of melting point 189°-189.5° C.

reactant | methyl rac-4,4-ethylenedioxy-1,2,3,4-tetrahydro-2-hydroxy-5,8-dimethoxynaphthalene-2-carboxylate | 10 g | C1OC2(CC(CC3=C(C=CC(=C23)OC)OC)(C(=O)OC)O)OC1 | C16H20O7
reactant | ethanedithiol | 4 ml | C(C)(S)S | C2H6S2
reactant | boron trifluoride etherate | 4 ml | B(F)(F)F.CCOCC
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | methanol | 200 ml | CO | CH4O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1',2',3',4'-tetrahydro-2'-hydroxy-5',8'-dimethoxyspiro[1,3-dithiolane-2,4'-naphthalene]-2'-carboxylic acid | 7.0 g, 66.5% | OC1(CC2=C(C=CC(=C2C2(C1)SCCS2)OC)OC)C(=O)O | C15H18O5S2
